US05030241
4-chloro-2,6-dinitro-(2',3'-dihydroxy-propyl)aniline
0.25 g of 4-chloro-2,6-dinitro-anisole (Kohn and Kramer, Monatsh, Chemie 49, 154) was dissolved in 2 ml of 2,3-dihydroxy-propylamine at 5° to 10° C. and stirred at this temperature for half an hour, whereupon the orange solution was pour on ice and the precipitated yellow crystals were filtered with suction. 0.2 g (64 Percent of the theoretical yield) of the dye was obtained, it had a melting of 82° C.

reactant | 4-chloro-2,6-dinitro-anisole | 0.25 g | ClC1=CC(=C(C(=C1)[N+](=O)[O-])OC)[N+](=O)[O-] | C7H5ClN2O5
reactant | 2,3-dihydroxy-propylamine | 2 ml | OC(CN)CO | C3H9NO2
product | 4-chloro-2,6-dinitro-(2',3'-dihydroxy-propyl)aniline | ClC1=CC(=C(NCC(CO)O)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H10ClN3O6
